US08791129B2
[2-Amino-6-[4,5-difluoro-2-(hydroxymethyl)phenyl]quinazolin-4-yl]isoindolin-2-ylmethanone (“A6”)
43 mg of (2-bromo-4,5-difluorophenyl)methanol, 80 mg of potassium carbonate, 4 μl of water and 16 mg of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride are added to a solution of 100 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 10 ml of ethanol under argon. The mixture is heated at 120° C. for 30 min; during which a precipitate forms. After cooling to 22° C., 10 ml of water are added, and the precipitate is filtered off. The residue is washed 3 times with 25 ml of ethanol each time and dried at 40° C. in vacuo.

reactant | (2-bromo-4,5-difluorophenyl)methanol | 43 mg | BrC1=C(C=C(C(=C1)F)F)CO | C7H5BrF2O
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 100 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
reactant | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-Amino-6-[4,5-difluoro-2-(hydroxymethyl)phenyl]quinazolin-4-yl]isoindolin-2-ylmethanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CO | C24H18F2N4O2
